US04560771
A mixture of 3.33 g of 3,4-dihydro-2,2-dioxo-3-methyl-1,2-benzoxathiin-8-ylsulfonamide, 1.84 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene, 3.2 g of N-(4-methoxy-6-methylpyrimidin-2-yl)phenylcarbamate and 35 ml of absolute dioxan is stirred for 45 minutes at a temperature in the range from 20° to 25° C. The mixture is concentrated and the oily residue is triturated with ether and 14 ml of 1N hydrochloric acid. The crystalline precipitate obtained is isolated, washed with water and dried, affording 4.96 g of N-(3,4-dihydro-2,2-dioxo-3-methyl-1,2-benzoxathiin-8-ylsulfonyl)-N'-(4-methoxy-6-methylpyrimidin-2-yl)urea of m.p. 215°-218° C.

reactant | 3,4-dihydro-2,2-dioxo-3-methyl-1,2-benzoxathiin-8-ylsulfonamide | 3.33 g | O=S1(OC2=C(CC1C)C=CC=C2S(=O)(=O)N)=O | C9H11NO5S2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.84 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N-(4-methoxy-6-methylpyrimidin-2-yl)phenylcarbamate | 3.2 g | COC1=NC(=NC(=C1)C)N(C([O-])=O)C1=CC=CC=C1
solvent | dioxan | 35 ml | O1CCOCC1 | C4H8O2
product | N-(3,4-dihydro-2,2-dioxo-3-methyl-1,2-benzoxathiin-8-ylsulfonyl)-N'-(4-methoxy-6-methylpyrimidin-2-yl)urea | 4.96 g | O=S1(OC2=C(CC1C)C=CC=C2S(=O)(=O)NC(=O)NC2=NC(=CC(=N2)OC)C)=O | C16H18N4O7S2
